US04038328
According to the present invention there is provided a process for preparing 2-nitro-4,6-dichloro-5-methylphenol comprising sulphonation of 4-chloro-5-methyl-phenol with concentrated sulphuric acid at elevated temperature to form 2-sulpho-4-chloro-5-methylphenol, thereafter diluting the reaction mixture with water to a sulphuric acid content of 20 to 30%, chlorinating the resulting 2-sulpho-4-chloro-5-methylphenol with chlorine at elevated temperature and normal or elevated pressure to form 2-sulpho-4,6-dichloro-5-methylphenol and reacting the 2-sulpho-4,6-dichloro-5-methylphenol with nitric acid.

reactant | 2-nitro-4,6-dichloro-5-methylphenol | [N+](=O)([O-])C1=C(C(=C(C(=C1)Cl)C)Cl)O | C7H5Cl2NO3
reactant | 4-chloro-5-methyl-phenol | ClC1=CC=C(C=C1C)O | C7H7ClO
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-sulpho-4-chloro-5-methylphenol | S(=O)(=O)(O)C1=C(C=C(C(=C1)Cl)C)O | C7H7ClO4S
